US06713490B2
A. 6-{[4-Hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl}-3,4-dihydroquinolin-2(1H)-one
To a stirred solution of 6-(Chloroacetyl)-3,4-dihydroquinolin-2(1H)-one (7.30 g, 32.7 mmol) in DMF (32 ml) were added 4-(3-methoxyphenyl)-4-piperidinol (J. Labelled Compd. Radiopharm., 41, p464, 1998). (8.12 g, 39.2 mmol) and triethylamine (13.7 ml, 98.0 mmol) at room temperature under nitrogen. The reaction mixture was stirred for 4 hours at room temperature and poured into water (80 ml). The precipitate was collected by filtration and washed with dichloromethane (20 ml). The solid was stirred in 0.5N NaOH (65 ml) for 1 hour at room temperature and the suspension was filtered to afford the title compound (5.98 g, 46%) as a yellow solid.

reactant | 6-(Chloroacetyl)-3,4-dihydroquinolin-2(1H)-one | 32.7 mmol, 7.30 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | 4-(3-methoxyphenyl)-4-piperidinol | COC=1C=C(C=CC1)C1(CCNCC1)O | C12H17NO2
reactant | triethylamine | 98.0 mmol, 13.7 ml | C(C)N(CC)CC | C6H15N
reactant | water | 80 ml | O | H2O
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
product | 6-{[4-Hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl}-3,4-dihydroquinolin-2(1H)-one | 5.98 g, 46% | OC1(CCN(CC1)CC(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC(=CC=C1)OC | C23H26N2O4
